US06503949B1
Step 1: Ethyl 3-[5-methyl-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl]propionate
A solution of 4-methylphthalic anhydride (21.3 g, 0.13 mol), ethyl 3-aminopropionate hydrochloride (20.2 g, 0.13 mol), and triethylamine (19 mL) in NMP was stirred at ambient temperature for 3 days, and heated to 130° C. for 3 hours. The mixture was diluted with water (300 mL), and extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with 1N hydrochloric acid (2×50 mL), sodium bicarbonate solution (2×50 mL), dried (MgSO4), and concentrated to give 27.3 g yellow oil.

reactant | 4-methylphthalic anhydride | 0.13 mol, 21.3 g | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | ethyl 3-aminopropionate hydrochloride | 0.13 mol, 20.2 g | Cl.NCCC(=O)OCC
reactant | triethylamine | 19 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | 300 mL | O | H2O
product | Ethyl 3-[5-methyl-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl]propionate | 27.3 g | CC=1C=C2C(N(C(C2=CC1)=O)CCC(=O)OCC)=O | C14H15NO4
